data/oMe_Silver.jsonl
{"reaction_id": "NR-129_1-c1ccc(C(F)(F)F)cc1_2-c1occc1","name": "Kumada-Corriu Coupling","level": "medium","reactants_smiles": ["c1ccc(C(F)(F)F)cc1Br","c1occc1[Mg]Br"],"products_smiles": ["c1ccc(C(F)(F)F)cc1c1occc1"],"conditions": "[Pd]","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Pd](c1ccc(C(F)(F)F)cc1)Br","rationale": "Pd(0) undergoes oxidative addition into the C–Br bond due to the bond’s polarization and good leaving group ability of Br⁻, forming a Pd(II) complex stabilized by coordination to c1ccc(C(F)(F)F)cc1."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[Pd](c1ccc(C(F)(F)F)cc1)c1occc1","rationale": "The nucleophilic c1occc1–MgBr transfers c1occc1 to Pd via transmetalation, driven by the strong Mg–Br affinity and the increased electrophilicity of Pd(II) from electron-withdrawing Br."},{"step": 3,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1ccc(C(F)(F)F)cc1c1occc1","rationale": "Reductive elimination from Pd(II) is favored as it forms a stable C–C bond between c1ccc(C(F)(F)F)cc1 and c1occc1, regenerating Pd(0) and completing the catalytic cycle."}],"description": "In the Kumada-Corriu coupling, a Pd catalyst mediates the cross-coupling of an organohalide with a Grignard reagent. Oxidative addition activates the aryl halide, transmetalation introduces the nucleophilic partner, and reductive elimination forms the C–C bond, regenerating the catalyst."}
{"reaction_id": "NR-144_1-C(F)(F)F_2-c1ccccc1_3-F_4-c1ccc(Cl)cc1_5-OC","name": "Michael Addition","level": "medium","reactants_smiles": ["C(C(F)(F)F)(c1ccccc1)=C(F)C(=O)OC","S([H])c1ccc(Cl)cc1"],"products_smiles": ["S(c1ccc(Cl)cc1)C(C(F)(F)F)(c1ccccc1)C(F)C(=O)OC"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[S-]c1ccc(Cl)cc1","rationale": "Base abstracts the acidic proton from the thiol due to sulfur’s relatively low pKa, generating a thiolate anion with high nucleophilicity."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(c1ccc(Cl)cc1)C(C(F)(F)F)(c1ccccc1)C(F)=C([O-])OC","rationale": "The thiolate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(c1ccc(Cl)cc1)C(C(F)(F)F)(c1ccccc1)C(F)C(=O)OC","rationale": "The enolate intermediate is protonated to form the neutral thioether, driven by the thermodynamic stability of the carbonyl group."}],"description": "Under basic conditions, the thiol is deprotonated to form a strong nucleophile, which undergoes conjugate (Michael) addition to the α,β-unsaturated carbonyl. The resulting enolate intermediate is then protonated to yield the stable thioether product."}
{"reaction_id": "NR-331_1-C(C)(C)C_2-c1ccc(OC)cc1_3-c1ccccc1_4-C_5-CC","level": "easy","name": "Reformatsky Reaction","reactants_smiles": ["C(Br)(c1ccc(OC)cc1)(c1ccccc1)C(=O)OC(C)(C)C","O=C(C)CC","[Zn]"],"products_smiles": ["C(C(O)(C)CC)(c1ccc(OC)cc1)(c1ccccc1)C(=O)OC(C)(C)C"],"conditions": "1. Zn dust; 2. Aqueous workup","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "C(C)(C)COC(=O)C(c1ccc(OC)cc1)(c1ccccc1)[Zn]Br","step_weight": 0,"rationale": "Zinc undergoes oxidative addition into the C–Br bond due to the electrophilicity of the α-carbon adjacent to the ester carbonyl, forming a stabilized organozinc species that is less reactive than a Grignard reagent."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C([O-])(C)CC)(c1ccc(OC)cc1)(c1ccccc1)C(=O)OC(C)(C)C.[Zn+2].[Br-]","step_weight": 0,"rationale": "The organozinc reagent acts as a soft nucleophile, attacking the electrophilic carbonyl carbon of the aldehyde; the ester group remains intact due to the mild nucleophilicity of zinc enolates."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(O)(C)CC)(c1ccc(OC)cc1)(c1ccccc1)C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation under acidic or neutral conditions."}],"description": "Zinc inserts into the α-bromo ester via oxidative addition, forming an organozinc reagent. This nucleophilic species adds to the aldehyde, generating an alkoxide intermediate. Aqueous workup protonates the alkoxide, yielding the β-hydroxy ester product characteristic of the Reformatsky reaction."}
